US06416746B1
Synthesis of Cyano-(2,3-dihydro-5,6-dimethoxy-3,3-dimethyl-1H-inden-1-ylidene)acetic Acid Ethyl Ester
122 g (0.55 mol) of 2,3-Dihydro-5,6-dimethoxy-3,3-dimethyl-1H-inden-1-one (CAS N.[4136-26-9] for preparation see F. Camps, Z. Naturforsch., B : Anorg. Chem., Org. Chem. (1984), 39B (12), 1801-5), 63,3 g (0.56 mol) of ethyl cyano acetate, 12 g (0.14 mol of piperidine, 12 g (0.1 mol) of benzoic acid and 1000 ml toluene were mixed together and heated under reflux for 48 hours. The reaction mixture was cooled to room temperature, washed with diluted HCl, aqueous Na2CO3, and water and then dried (MgSO4). Removal of the solvent and crystallization from EtOH gave 123.8 g of a yellow solid (m.p.: 148-149° C). Yield: 71%; E1%cm: 790 (1 max.: 367 nm) in EtOH. Solubility: 0.35% in CÉTIOL LC

reactant | 2,3-Dihydro-5,6-dimethoxy-3,3-dimethyl-1H-inden-1-one | 0.55 mol, 122 g | COC=1C=C2C(CC(C2=CC1OC)=O)(C)C | C13H16O3
reactant | ethyl cyano acetate | 0.56 mol, 63,3 g | CCOC(=O)CC#N | C5H7NO2
reactant | piperidine | 0.14 mol | N1CCCCC1 | C5H11N
reactant | benzoic acid | 0.1 mol, 12 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | Cyano-(2,3-dihydro-5,6-dimethoxy-3,3-dimethyl-1H-inden-1-ylidene)acetic Acid Ethyl Ester | 123.8 g, Yield: 71% | C(C)OC(C(=C1CC(C2=CC(=C(C=C12)OC)OC)(C)C)C#N)=O | C18H21NO4
